US07790915B2
In the step, 35.00 g (77.55 mmol) of (3-fluorobenzyl)triphenylphosphonium bromide was suspended in 150 ml of THF, and the suspension was cooled to −30° C. and added with 10.25 g (=88.61 mmols) of potassium t-butoxide under stirring. After the addition was finished, the reaction solution was stirred at the same temperature for 1 hour, a 50 ml THF solution of 8.65 g (=55.38 mmol) of 2-naphthoaldehyde was dropped into the same, and then the mixture was slowly heated to room temperature. After being stirred for 18 hours, the reaction mixture was added into iced water, and the mixture was extracted thrice with toluene. The extract was washed thrice with water and then dried with anhydrous MgSO4. After the solvent was evaporated under a reduced pressure, the obtained yellow solid of 43.34 g was purified with silica gel chromatography using heptane as the eluent to obtain 11.54 g of 2-[2-(3-fluorophenyl)vinyl]naphthalene as a white solid.

reactant | (3-fluorobenzyl)triphenylphosphonium bromide | 77.55 mmol, 35.00 g | [Br-].FC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1
reactant | potassium t-butoxide | 88.61 mmols, 10.25 g | CC(C)([O-])C.[K+]
reactant | 2-naphthoaldehyde | 55.38 mmol, 8.65 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | water | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-[2-(3-fluorophenyl)vinyl]naphthalene | 11.54 g | FC=1C=C(C=CC1)C=CC1=CC2=CC=CC=C2C=C1 | C18H13F
